US05089509
4,4-Dimethylchroman
To a dry, ice-cooled flask containing 34.95 g (0.134 mol) of stannic chloride was added quickly under argon 63.0 g (0.669 mol) of phenol. The mixture was stirred at 0° C. for 0.5 hour and then treated with 43.0 g (0.135 mol) of diphenyl-3-methyl-3-buten-1-yl phosphate, followed by a 5 ml carbon disulfide rinse. The mixture was stirred at room temperature for 21 hours and then quenched by pouring onto 700 g ice and 1 liter of 1.5N NaOH. The mixture was extracted with 1×600 ml and 2×300 ml ether. The combined ether fractions were washed with 2N NaOH, saturated NaCl and dried (MgSO4). Solvent was removed in vacuo and the residue purified by flash chromatography (silica; 2% ether in hexane) to give the title compound as a colorless oil.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | diphenyl-3-methyl-3-buten-1-yl phosphate | 0.135 mol, 43.0 g | P(=O)(OCC(C(=C)C)(C1=CC=CC=C1)C1=CC=CC=C1)([O-])[O-]
solvent | carbon disulfide | 5 ml | C(=S)=S | CS2
product | 4,4-Dimethylchroman | CC1(CCOC2=CC=CC=C12)C | C11H14O
